US06117888
Step K: 3-Amino-1-carboxymethyl-4-(N-cyclobutylmethylsulfamoyl)-2-pyridinone
Lithium hydroxide hydrate (40 mg, 0.952 mmol) was added to a stirred solution of 3-amino-4-(N-cyclobutylmethylsulfamoyl)-1-ethoxycarbonylmethyl-2-pyridinone (170 mg, 0.476 mmol) in 1:3:3 water/methanol/THF (14 mL). After 2 h, the reaction was acidified with 1M HCl and the mixture was partitioned between chloroform and brine. The organic layer was dried (Na2SO4) and evaporated to give the title compound as a solid;

reactant | Lithium hydroxide hydrate | 0.952 mmol, 40 mg | O.[OH-].[Li+]
reactant | 3-amino-4-(N-cyclobutylmethylsulfamoyl)-1-ethoxycarbonylmethyl-2-pyridinone | 0.476 mmol, 170 mg | NC=1C(N(C=CC1S(NCC1CCC1)(=O)=O)CC(=O)OCC)=O | C14H21N3O5S
reactant | HCl | 1M | Cl | ClH
solvent | water methanol THF | 14 mL | O.CO.C1CCOC1
product | 3-Amino-1-carboxymethyl-4-(N-cyclobutylmethylsulfamoyl)-2-pyridinone | NC=1C(N(C=CC1S(NCC1CCC1)(=O)=O)CC(=O)O)=O | C12H17N3O5S
